US05639779
5-(2-Ethylsulphonylethyl)-3-[N-(2-methylsulphonylethyl)-2(R)-pyrrolidinylmethyl]-1H-indole
5-(2-Ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole hydrochloride (Preparation 5; 200 mg, 0.56 mmol) was dissolved in N,N-dimethylacetamide (4 ml) under nitrogen at room temperature, then methyl vinyl sulphone (0.06 ml, 0.69 mmol) and triethylamine (0.2 ml) were added. The resulting mixture was heated at 100° C. for 18 hours, allowed to cool, then partitioned between ethyl acetate and water. The organic phase was separated, washed with water, dried (Na2SO4) and evaporated under reduced pressure. The resulting crude material was purified by column chromatography on silica gel, eluting with a gradient of ethanol in dichloromethane (0 to 5% ethanol), to afford the title compound as a gum (130 mg). Rf 0.70 (SS 4). [α]D25 +43° (c=0.1, CH3OH). Found: C,55.38; H,7.12; N,6.50. C20H30N2O4S2 ; 0.10 CH2Cl2 requires C,55.48; H,7.00; N,6.44%. δ(CDCl3): 1.38(3H,t), 1.50-1.90(5H,m), 2.22(1H,m), 2.60-2.80(3H,m), 2.90-3.35(12H,m), 3.48(1H,m), 5.30(0.20H,s,CH2Cl2), 6.98-7.10(2H,m), 7.30(1H,d), 7.44(1H,s), 8.22(1H,br s).

reactant | 5-(2-Ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole hydrochloride | 0.56 mmol, 200 mg | Cl.C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1
reactant | methyl vinyl sulphone | 0.69 mmol, 0.06 ml | C(=C)S(=O)(=O)C | C3H6O2S
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
product | 5-(2-Ethylsulphonylethyl)-3-[N-(2-methylsulphonylethyl)-2(R)-pyrrolidinylmethyl]-1H-indole | 130 mg | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)CCS(=O)(=O)C | C20H30N2O4S2
